US08067426B2
Intermediate 66: 8-Bromo-2-(cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
N-Bromosuccinimide (0.214 g, 1.2 mmol) was added to a stirred solution of 2-(cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (0.254 g, 0.80 mmol) in chloroform (5 ml) at 0° C. The resultant mixture was stirred at 0° C. for 1.5 hours and then warmed to room temperature and stirred for a further 2 hours. Water (5 ml) was added and the phases separated using a hydrophobic frit. The organic phase was evaporated and the residue dissolved in dichloromethane and purified on a 70 g aminopropyl (NH2) cartridge eluting with a 0-100% ethyl acetate in cyclohexane gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a white solid (0.252 g).

reactant | N-Bromosuccinimide | 1.2 mmol, 0.214 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 0.80 mmol, 0.254 g | C1(CCCCC1)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C16H23N5O2
reactant | Water | 5 ml | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-(cyclohexyloxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 0.252 g | BrC=1N(C2=NC(=NC(=C2N1)N)OC1CCCCC1)C1OCCCC1 | C16H22BrN5O2
